US07253318B2
In analogy to the procedure described in Example 1b), the alkylation of 4-benzyloxy-phenol [Example 2a)] with ethyl (RS)-2-bromobutyrate in acetone using cesium carbonate as the base yielded the (RS)-2-(4-benzyloxy-phenoxy)-butyric acid ethyl ester as a brown oil; MS: m/e=314 (M)+.

reactant | 4-benzyloxy-phenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | ethyl (RS)-2-bromobutyrate | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | CC(=O)C | C3H6O
product | (RS)-2-(4-benzyloxy-phenoxy)-butyric acid ethyl ester | C(C)OC(C(CC)OC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C19H22O4
